*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-23 06:34:14
*********************************************************

.SUBCKT sense_fill_clip
Cext_1 CTX_L134_0 CTX_L30_0 102.749a
Cext_2 CTX_L134_0 CTX_L30_1 8.82558a
Cext_3 CTX_L134_0 CTX_L30_2 17.9889a
Cext_4 CTX_L134_0 CTX_L30_5 14.5823a
Cext_5 CTX_L134_0 FILL_L10_0 2.2981a
Cext_6 CTX_L134_0 FILL_L10_1 4.59621a
Cext_7 CTX_L134_0 FILL_L10_10 3.75148a
Cext_8 CTX_L134_0 FILL_L10_11 7.50297a
Cext_9 CTX_L134_0 FILL_L10_12 7.50297a
Cext_10 CTX_L134_0 FILL_L10_2 4.59621a
Cext_11 CTX_L134_0 FILL_L10_3 3.44716a
Cext_12 CTX_L134_0 FILL_L10_4 24.9715a
Cext_13 CTX_L134_0 FILL_L10_5 31.3264a
Cext_14 CTX_L134_0 FILL_L10_6 31.3264a
Cext_15 CTX_L134_0 FILL_L10_7 28.149a
Cext_16 CTX_L134_0 FILL_L10_9 3.41712a
Cext_17 CTX_L134_0 FILL_L50_0 96.9991a
Cext_18 CTX_L134_0 FILL_L50_1 97.2965a
Cext_19 CTX_L134_0 FILL_L50_2 97.2965a
Cext_20 CTX_L134_0 FILL_L50_3 7.40564a
Cext_21 CTX_L134_0 FILL_L50_4 45.0981a
Cext_22 CTX_L134_0 FILL_L50_5 45.0981a
Cext_23 CTX_L134_0 FILL_L50_6 45.0981a
Cext_24 CTX_L134_0 FILL_L50_7 1.80393a
Cext_25 CTX_L134_0 N 17.5443a
Cext_26 CTX_L134_0 P 17.0754a
Cext_27 CTX_L134_0 VSUBS 868.215a
Cext_28 CTX_L30_0 CTX_L30_1 1.26652f
Cext_29 CTX_L30_0 CTX_L8_0 86.9428a
Cext_30 CTX_L30_0 FILL_L10_0 549.624a
Cext_31 CTX_L30_0 FILL_L10_1 560.781a
Cext_32 CTX_L30_0 FILL_L10_2 560.781a
Cext_33 CTX_L30_0 FILL_L10_3 544.548a
Cext_34 CTX_L30_0 FILL_L50_0 526.596a
Cext_35 CTX_L30_0 FILL_L50_1 527.538a
Cext_36 CTX_L30_0 FILL_L50_2 527.538a
Cext_37 CTX_L30_0 FILL_L50_3 58.5562a
Cext_38 CTX_L30_0 VSUBS 875.467a
Cext_39 CTX_L30_1 CTX_L30_2 279.622a
Cext_40 CTX_L30_1 CTX_L8_0 16.8702a
Cext_41 CTX_L30_1 FILL_L10_0 82.7344a
Cext_42 CTX_L30_1 FILL_L10_1 82.7344a
Cext_43 CTX_L30_1 FILL_L10_2 82.7344a
Cext_44 CTX_L30_1 FILL_L10_3 82.7344a
Cext_45 CTX_L30_1 FILL_L10_4 41.878a
Cext_46 CTX_L30_1 FILL_L10_5 41.878a
Cext_47 CTX_L30_1 FILL_L10_6 41.878a
Cext_48 CTX_L30_1 FILL_L10_7 41.878a
Cext_49 CTX_L30_1 FILL_L50_0 281.029a
Cext_50 CTX_L30_1 FILL_L50_1 281.218a
Cext_51 CTX_L30_1 FILL_L50_2 281.218a
Cext_52 CTX_L30_1 FILL_L50_3 18.7396a
Cext_53 CTX_L30_1 FILL_L8_0 3.20831a
Cext_54 CTX_L30_1 FILL_L8_1 3.20831a
Cext_55 CTX_L30_1 FILL_L8_2 3.20831a
Cext_56 CTX_L30_1 FILL_L8_3 3.20831a
Cext_57 CTX_L30_1 VSUBS 309.867a
Cext_58 CTX_L30_2 CTX_L8_0 1.39547a
Cext_59 CTX_L30_2 FILL_L10_4 223.208a
Cext_60 CTX_L30_2 FILL_L10_5 224.529a
Cext_61 CTX_L30_2 FILL_L10_6 224.529a
Cext_62 CTX_L30_2 FILL_L10_7 222.607a
Cext_63 CTX_L30_2 FILL_L50_0 89.3702a
Cext_64 CTX_L30_2 FILL_L50_1 89.3702a
Cext_65 CTX_L30_2 FILL_L50_2 89.3702a
Cext_66 CTX_L30_2 FILL_L50_3 3.57481a
Cext_67 CTX_L30_2 FILL_L50_4 8.71257a
Cext_68 CTX_L30_2 FILL_L50_5 8.71257a
Cext_69 CTX_L30_2 FILL_L50_6 8.71257a
Cext_70 CTX_L30_2 FILL_L50_7 0.348503a
Cext_71 CTX_L30_2 FILL_L8_0 2.59403a
Cext_72 CTX_L30_2 FILL_L8_1 3.22052a
Cext_73 CTX_L30_2 FILL_L8_2 3.22052a
Cext_74 CTX_L30_2 FILL_L8_3 2.39681a
Cext_75 CTX_L30_2 N 4.30617f
Cext_76 CTX_L30_2 VSUBS 224.571a
Cext_77 CTX_L30_5 CTX_L30_6 153.322a
Cext_78 CTX_L30_5 CTX_L8_0 0.835361a
Cext_79 CTX_L30_5 FILL_L10_10 25.0837a
Cext_80 CTX_L30_5 FILL_L10_11 25.0837a
Cext_81 CTX_L30_5 FILL_L10_12 25.0837a
Cext_82 CTX_L30_5 FILL_L10_4 155.534a
Cext_83 CTX_L30_5 FILL_L10_5 156.854a
Cext_84 CTX_L30_5 FILL_L10_6 156.854a
Cext_85 CTX_L30_5 FILL_L10_7 154.933a
Cext_86 CTX_L30_5 FILL_L10_8 3.90476a
Cext_87 CTX_L30_5 FILL_L10_9 3.90476a
Cext_88 CTX_L30_5 FILL_L50_0 3.7676a
Cext_89 CTX_L30_5 FILL_L50_1 3.7676a
Cext_90 CTX_L30_5 FILL_L50_2 3.7676a
Cext_91 CTX_L30_5 FILL_L50_3 0.150704a
Cext_92 CTX_L30_5 FILL_L50_4 192.39a
Cext_93 CTX_L30_5 FILL_L50_5 192.428a
Cext_94 CTX_L30_5 FILL_L50_6 192.428a
Cext_95 CTX_L30_5 FILL_L50_7 9.19529a
Cext_96 CTX_L30_5 FILL_L8_0 2.59403a
Cext_97 CTX_L30_5 FILL_L8_1 3.22052a
Cext_98 CTX_L30_5 FILL_L8_2 3.22052a
Cext_99 CTX_L30_5 FILL_L8_3 2.39681a
Cext_100 CTX_L30_5 P 4.30617f
Cext_101 CTX_L30_5 VSUBS 352.388a
Cext_102 CTX_L30_6 FILL_L10_10 243.831a
Cext_103 CTX_L30_6 FILL_L10_11 245.878a
Cext_104 CTX_L30_6 FILL_L10_12 248.429a
Cext_105 CTX_L30_6 FILL_L10_4 1.75442a
Cext_106 CTX_L30_6 FILL_L10_5 1.75442a
Cext_107 CTX_L30_6 FILL_L10_6 1.75442a
Cext_108 CTX_L30_6 FILL_L10_7 2.14344a
Cext_109 CTX_L30_6 FILL_L10_8 4.89971a
Cext_110 CTX_L30_6 FILL_L10_9 4.89971a
Cext_111 CTX_L30_6 FILL_L50_4 69.6433a
Cext_112 CTX_L30_6 FILL_L50_5 69.6433a
Cext_113 CTX_L30_6 FILL_L50_6 69.6433a
Cext_114 CTX_L30_6 FILL_L50_7 2.78573a
Cext_115 CTX_L30_6 FILL_L8_10 0.95569a
Cext_116 CTX_L30_6 FILL_L8_11 0.95569a
Cext_117 CTX_L30_6 FILL_L8_3 0.507065a
Cext_118 CTX_L30_6 VSUBS 965.263a
Cext_119 CTX_L8_0 FILL_L10_0 209.599a
Cext_120 CTX_L8_0 FILL_L10_1 211.903a
Cext_121 CTX_L8_0 FILL_L10_2 211.903a
Cext_122 CTX_L8_0 FILL_L10_3 208.55a
Cext_123 CTX_L8_0 FILL_L50_0 16.3943a
Cext_124 CTX_L8_0 FILL_L50_1 16.3943a
Cext_125 CTX_L8_0 FILL_L50_2 16.3943a
Cext_126 CTX_L8_0 FILL_L50_3 0.962807a
Cext_127 CTX_L8_0 FILL_L50_4 2.19047a
Cext_128 CTX_L8_0 FILL_L50_5 2.19047a
Cext_129 CTX_L8_0 FILL_L50_6 2.19047a
Cext_130 CTX_L8_0 FILL_L50_7 0.23365a
Cext_131 CTX_L8_0 FILL_L8_0 37.7666a
Cext_132 CTX_L8_0 FILL_L8_1 37.7666a
Cext_133 CTX_L8_0 FILL_L8_2 37.7666a
Cext_134 CTX_L8_0 FILL_L8_3 37.7666a
Cext_135 CTX_L8_0 N 1.20181a
Cext_136 CTX_L8_0 P 0.954396a
Cext_137 CTX_L8_0 VSUBS 1.66414f
Cext_138 FILL_L10_0 FILL_L10_1 61.1782a
Cext_139 FILL_L10_0 FILL_L10_4 97.7733a
Cext_140 FILL_L10_0 FILL_L50_0 62.109a
Cext_141 FILL_L10_0 FILL_L8_0 14.23a
Cext_142 FILL_L10_0 VSUBS 394.753a
Cext_143 FILL_L10_1 FILL_L10_2 61.1782a
Cext_144 FILL_L10_1 FILL_L10_5 97.7733a
Cext_145 FILL_L10_1 FILL_L50_0 15.5573a
Cext_146 FILL_L10_1 FILL_L50_1 46.1012a
Cext_147 FILL_L10_1 FILL_L8_1 14.23a
Cext_148 FILL_L10_1 VSUBS 347.754a
Cext_149 FILL_L10_10 FILL_L10_11 92.4656a
Cext_150 FILL_L10_10 FILL_L10_4 97.7733a
Cext_151 FILL_L10_10 FILL_L50_4 216.433a
Cext_152 FILL_L10_10 FILL_L8_0 9.67781a
Cext_153 FILL_L10_10 FILL_L8_4 117.043a
Cext_154 FILL_L10_10 FILL_L8_5 117.043a
Cext_155 FILL_L10_10 VSUBS 506.684a
Cext_156 FILL_L10_11 FILL_L10_12 92.4656a
Cext_157 FILL_L10_11 FILL_L10_5 97.7733a
Cext_158 FILL_L10_11 FILL_L50_4 62.2292a
Cext_159 FILL_L10_11 FILL_L50_5 165.203a
Cext_160 FILL_L10_11 FILL_L8_1 9.67781a
Cext_161 FILL_L10_11 FILL_L8_6 117.043a
Cext_162 FILL_L10_11 FILL_L8_7 117.043a
Cext_163 FILL_L10_11 VSUBS 437.887a
Cext_164 FILL_L10_12 FILL_L10_6 97.7733a
Cext_165 FILL_L10_12 FILL_L10_8 27.9352a
Cext_166 FILL_L10_12 FILL_L50_5 130.878a
Cext_167 FILL_L10_12 FILL_L50_6 103.574a
Cext_168 FILL_L10_12 FILL_L50_7 0.165088a
Cext_169 FILL_L10_12 FILL_L8_2 9.67781a
Cext_170 FILL_L10_12 FILL_L8_8 117.043a
Cext_171 FILL_L10_12 FILL_L8_9 117.043a
Cext_172 FILL_L10_12 VSUBS 485.899a
Cext_173 FILL_L10_2 FILL_L10_3 61.1782a
Cext_174 FILL_L10_2 FILL_L10_6 97.7733a
Cext_175 FILL_L10_2 FILL_L50_1 35.9199a
Cext_176 FILL_L10_2 FILL_L50_2 25.7386a
Cext_177 FILL_L10_2 FILL_L8_2 14.23a
Cext_178 FILL_L10_2 VSUBS 347.754a
Cext_179 FILL_L10_3 FILL_L10_7 97.7733a
Cext_180 FILL_L10_3 FILL_L50_2 54.3371a
Cext_181 FILL_L10_3 FILL_L50_3 7.80705a
Cext_182 FILL_L10_3 FILL_L8_3 14.23a
Cext_183 FILL_L10_3 VSUBS 395.197a
Cext_184 FILL_L10_4 FILL_L10_5 97.7733a
Cext_185 FILL_L10_4 FILL_L50_0 136.912a
Cext_186 FILL_L10_4 FILL_L50_4 93.2632a
Cext_187 FILL_L10_4 FILL_L8_0 823.506a
Cext_188 FILL_L10_4 N 124.297a
Cext_189 FILL_L10_4 P 124.297a
Cext_190 FILL_L10_4 VSUBS 268.965a
Cext_191 FILL_L10_5 FILL_L10_6 97.7733a
Cext_192 FILL_L10_5 FILL_L50_0 31.1146a
Cext_193 FILL_L10_5 FILL_L50_1 99.819a
Cext_194 FILL_L10_5 FILL_L50_4 14.3127a
Cext_195 FILL_L10_5 FILL_L50_5 64.0869a
Cext_196 FILL_L10_5 FILL_L8_1 823.506a
Cext_197 FILL_L10_5 N 125.617a
Cext_198 FILL_L10_5 P 125.617a
Cext_199 FILL_L10_5 VSUBS 196.219a
Cext_200 FILL_L10_6 FILL_L10_7 97.7733a
Cext_201 FILL_L10_6 FILL_L50_1 76.9175a
Cext_202 FILL_L10_6 FILL_L50_2 54.016a
Cext_203 FILL_L10_6 FILL_L50_5 47.4955a
Cext_204 FILL_L10_6 FILL_L50_6 30.9041a
Cext_205 FILL_L10_6 FILL_L8_2 823.506a
Cext_206 FILL_L10_6 N 125.617a
Cext_207 FILL_L10_6 P 125.617a
Cext_208 FILL_L10_6 VSUBS 196.219a
Cext_209 FILL_L10_7 FILL_L10_8 27.9352a
Cext_210 FILL_L10_7 FILL_L10_9 27.9352a
Cext_211 FILL_L10_7 FILL_L50_2 118.83a
Cext_212 FILL_L10_7 FILL_L50_3 15.6141a
Cext_213 FILL_L10_7 FILL_L50_6 85.9089a
Cext_214 FILL_L10_7 FILL_L50_7 7.18249a
Cext_215 FILL_L10_7 FILL_L8_3 823.506a
Cext_216 FILL_L10_7 N 123.696a
Cext_217 FILL_L10_7 P 123.696a
Cext_218 FILL_L10_7 VSUBS 300.142a
Cext_219 FILL_L10_8 FILL_L10_9 27.9352a
Cext_220 FILL_L10_8 FILL_L50_6 58.646a
Cext_221 FILL_L10_8 FILL_L8_10 67.225a
Cext_222 FILL_L10_8 VSUBS 76.8472a
Cext_223 FILL_L10_9 FILL_L50_6 17.0236a
Cext_224 FILL_L10_9 FILL_L50_7 11.7233a
Cext_225 FILL_L10_9 FILL_L8_11 67.225a
Cext_226 FILL_L10_9 VSUBS 97.6317a
Cext_227 FILL_L50_0 FILL_L50_1 98.8543a
Cext_228 FILL_L50_0 FILL_L50_4 98.8543a
Cext_229 FILL_L50_0 FILL_L8_0 13.629a
Cext_230 FILL_L50_0 FILL_L8_1 4.27668a
Cext_231 FILL_L50_0 N 11.3472a
Cext_232 FILL_L50_0 P 6.98188a
Cext_233 FILL_L50_0 VSUBS 288.178a
Cext_234 FILL_L50_1 FILL_L50_2 98.8543a
Cext_235 FILL_L50_1 FILL_L50_5 98.8543a
Cext_236 FILL_L50_1 FILL_L8_1 9.88809a
Cext_237 FILL_L50_1 FILL_L8_2 8.01762a
Cext_238 FILL_L50_1 N 11.3472a
Cext_239 FILL_L50_1 P 6.98188a
Cext_240 FILL_L50_1 VSUBS 204.942a
Cext_241 FILL_L50_2 FILL_L50_3 98.8543a
Cext_242 FILL_L50_2 FILL_L50_6 98.8543a
Cext_243 FILL_L50_2 FILL_L8_2 6.14715a
Cext_244 FILL_L50_2 FILL_L8_3 11.7586a
Cext_245 FILL_L50_2 N 11.3472a
Cext_246 FILL_L50_2 P 6.98188a
Cext_247 FILL_L50_2 VSUBS 208.639a
Cext_248 FILL_L50_3 FILL_L50_7 3.95417a
Cext_249 FILL_L50_3 FILL_L8_3 0.469331a
Cext_250 FILL_L50_3 N 0.453888a
Cext_251 FILL_L50_3 P 0.279275a
Cext_252 FILL_L50_3 VSUBS 143.013a
Cext_253 FILL_L50_4 FILL_L50_5 98.8543a
Cext_254 FILL_L50_4 FILL_L8_0 12.659a
Cext_255 FILL_L50_4 FILL_L8_1 1.96727a
Cext_256 FILL_L50_4 FILL_L8_5 8.55336a
Cext_257 FILL_L50_4 FILL_L8_6 4.27668a
Cext_258 FILL_L50_4 N 14.6777a
Cext_259 FILL_L50_4 P 25.4668a
Cext_260 FILL_L50_4 VSUBS 311.165a
Cext_261 FILL_L50_5 FILL_L50_6 98.8543a
Cext_262 FILL_L50_5 FILL_L8_1 8.3823a
Cext_263 FILL_L50_5 FILL_L8_2 6.24396a
Cext_264 FILL_L50_5 FILL_L8_7 8.55336a
Cext_265 FILL_L50_5 FILL_L8_8 8.55336a
Cext_266 FILL_L50_5 N 14.6777a
Cext_267 FILL_L50_5 P 25.4668a
Cext_268 FILL_L50_5 VSUBS 223.987a
Cext_269 FILL_L50_6 FILL_L50_7 98.8543a
Cext_270 FILL_L50_6 FILL_L8_10 14.4252a
Cext_271 FILL_L50_6 FILL_L8_11 2.781a
Cext_272 FILL_L50_6 FILL_L8_2 4.10561a
Cext_273 FILL_L50_6 FILL_L8_3 14.5884a
Cext_274 FILL_L50_6 FILL_L8_9 6.41502a
Cext_275 FILL_L50_6 N 14.6777a
Cext_276 FILL_L50_6 P 25.4668a
Cext_277 FILL_L50_6 VSUBS 278.249a
Cext_278 FILL_L50_7 FILL_L8_11 0.469331a
Cext_279 FILL_L50_7 FILL_L8_3 0.215892a
Cext_280 FILL_L50_7 N 0.587106a
Cext_281 FILL_L50_7 P 1.01867a
Cext_282 FILL_L50_7 VSUBS 159.828a
Cext_283 FILL_L8_0 FILL_L8_1 69.6968a
Cext_284 FILL_L8_0 FILL_L8_4 19.9134a
Cext_285 FILL_L8_0 FILL_L8_5 19.9134a
Cext_286 FILL_L8_0 N 2.59403a
Cext_287 FILL_L8_0 P 2.59403a
Cext_288 FILL_L8_0 VSUBS 861.416a
Cext_289 FILL_L8_1 FILL_L8_2 69.6968a
Cext_290 FILL_L8_1 FILL_L8_6 19.9134a
Cext_291 FILL_L8_1 FILL_L8_7 19.9134a
Cext_292 FILL_L8_1 N 3.22052a
Cext_293 FILL_L8_1 P 3.22052a
Cext_294 FILL_L8_1 VSUBS 803.359a
Cext_295 FILL_L8_10 FILL_L8_11 19.9134a
Cext_296 FILL_L8_10 FILL_L8_3 19.9134a
Cext_297 FILL_L8_10 FILL_L8_9 19.9134a
Cext_298 FILL_L8_10 VSUBS 143.597a
Cext_299 FILL_L8_11 FILL_L8_3 19.9134a
Cext_300 FILL_L8_11 VSUBS 160.185a
Cext_301 FILL_L8_2 FILL_L8_3 69.6968a
Cext_302 FILL_L8_2 FILL_L8_8 19.9134a
Cext_303 FILL_L8_2 FILL_L8_9 19.9134a
Cext_304 FILL_L8_2 N 3.22052a
Cext_305 FILL_L8_2 P 3.22052a
Cext_306 FILL_L8_2 VSUBS 803.359a
Cext_307 FILL_L8_3 N 2.39681a
Cext_308 FILL_L8_3 P 2.39681a
Cext_309 FILL_L8_3 VSUBS 861.416a
Cext_310 FILL_L8_4 FILL_L8_5 19.9134a
Cext_311 FILL_L8_4 VSUBS 160.185a
Cext_312 FILL_L8_5 FILL_L8_6 19.9134a
Cext_313 FILL_L8_5 VSUBS 143.597a
Cext_314 FILL_L8_6 FILL_L8_7 19.9134a
Cext_315 FILL_L8_6 VSUBS 143.597a
Cext_316 FILL_L8_7 FILL_L8_8 19.9134a
Cext_317 FILL_L8_7 VSUBS 143.597a
Cext_318 FILL_L8_8 FILL_L8_9 19.9134a
Cext_319 FILL_L8_8 VSUBS 143.597a
Cext_320 FILL_L8_9 VSUBS 143.597a
Cext_321 N P 4.30617f
Cext_322 N VSUBS 45.1251a
Cext_323 P VSUBS 45.1251a
.ENDS sense_fill_clip
